US07462639B2
Pyrrolidine-1-carboxylic acid[3-(5-ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide
Pyrrolidine-1-carboxylic acid[3-(5-ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide was prepared using 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (140 mg, 0.45 mmol) and 1-pyrolidine carbonyl chloride (154 μl, 1.40 mmol). The title compound was obtained as light grey powder (50 mg, 275).

reactant | 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.45 mmol, 140 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1 | C16H18N6O
reactant | 1-pyrolidine carbonyl chloride | 1.40 mmol, 154 μl | N1(CCCC1)C(=O)Cl | C5H8ClNO
product | Pyrrolidine-1-carboxylic acid[3-(5-ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide | C(C)N1C(C(C=2C=C3C(=CC12)N=C(N3)C3=NNC=C3NC(=O)N3CCCC3)(C)C)=O | C21H25N7O2
